US05387710
A mixture of 3-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol (70.67 g) and potassium hydrogensulfate (53.00 g) was heated at 160° C. for 1 hour. After cooling, to the mixture was added a mixture of water (400 ml) and ethyl acetate (400 ml). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (200 ml). The combined organic layer was washed with brine (150 ml), dried over anhydrous sodium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of n-hexane and chloroform (1:1) as an eluent to give 2-nitro-6,7-dihydro-5H-benzocycloheptene (48.1 g).

reactant | 3-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol | 70.67 g | [N+](=O)([O-])C1=CC2=C(CCCCC2O)C=C1 | C11H13NO3
reactant | potassium hydrogensulfate | 53.00 g | S(=O)(=O)(O)[O-].[K+]
reactant | water | 400 ml | O | H2O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 2-nitro-6,7-dihydro-5H-benzocycloheptene | 48.1 g | [N+](=O)([O-])C=1C=CC2=C(C=CCCC2)C1 | C11H11NO2
